US07253191B2
a) 2-Cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethane
250 ml of dry ethanol were added dropwise to metallic sodium (17.3 g/0.7 mol). Ethyl isonicotinate (75.8 g/0.5 mol) and 4-fluorophenylacetonitrile (67.6 g/0.5 mol) were then added dropwise, and the mixture was subsequently heated under reflux for 15 min. After cooling, 600 ml of distilled water were added to the mixture. When the mixture was acidified to pH 1 using concentrated hydrochloric acid (HCl), the desired compound 2-cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethane precipitated as a yellow precipitate. The precipitate was filtered off, washed with distilled water and dried under reduced pressure over phosphorus pentoxide (P2O5). The yield was 85.0 g (62%).

reactant | sodium | 0.7 mol, 17.3 g | [Na] | Na
reactant | Ethyl isonicotinate | 0.5 mol, 75.8 g | C(C1=CC=NC=C1)(=O)OCC | C8H9NO2
reactant | 4-fluorophenylacetonitrile | 0.5 mol, 67.6 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | hydrochloric acid | Cl | ClH
solvent | water | 600 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-Cyano-2-(4-fluorophenyl)-1-(4-pyridyl)ethane | C(#N)C(CC1=CC=NC=C1)C1=CC=C(C=C1)F | C14H11FN2
